Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
ruptured ovarian cyst
 
Major Surgical or Invasive Procedure:
blood transfusion

 
History of Present Illness:
CC: hemoperitoneum

HPI: Ms. ___ is a ___ G0 who presents to the ED with 
diffuse
abdominal pain, pressure and rectal pressure that started on
___. She reports that she has felt weak, has some
shortness of breath on exertion. 

ROS: She denies chest pain, nausea, lightheadedness, dizziness.
All other areas negative except for pertinent 
positives/negatives
mentioned above.

OBHx: G0

GYNHx:
- Menarche 11 
- Now amenorrheic s/p endometrial abalation
- Last Pap ___ 
- Hx of STIs
- No hx of fibroids, endometriosis
- Hx of ruptured hemorrhagic cyst s/p hemoperitoneum
- s/p course of Lupron and norethindrone (not taking 

 
Past Medical History:
PMH:
CONGENITAL HEART DISEASE                                        
HEART ATTACK                                                    
COAGULATION  DISORDER                                           
HISTORY OF BLOOD TRANSFUSSIONS                                  
ANEMIA                                                          
PSORIASIS                                                       
HYPTONIC BLADDER                                                
PELVIC CYST                                                     
ARTIFICIAL HEART VALVE                                          
SEASONAL ALLERGIES                                              
HYPOTHYROIDISM                                                  
NEUPATHIC BLADDER                                               
LIPOPROTEIN DISORDERS                                           
IRON DEFICIENCY ANEMIA                                          
HEMORRHOIDS                                                     
ALLERGIC RHINITIS                                               
CARDIAC VALVE REPLACEMENT (MECHANICAL)                          
AVR             

PSH:
ENDOMETRIAL ABLATION  ___   
CARDIAC VALVE REPLACEMENT (MECHANICAL) ___
ANKLE REPAIR, left                                               
     

 
 
Social History:
Presents with boyfriend, not sexually active.  Denies T/D.
Reports ___ drink per week
 
Physical Exam:
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, mild tenderness diffusely, no rebound/guarding
Ext: no TTP
 
Pertinent Results:
=======================================
Labs
=======================================
___ 05:10PM BLOOD WBC-6.5 RBC-3.59*# Hgb-10.5*# Hct-32.7*# 
MCV-91 MCH-29.2 MCHC-32.1 RDW-13.5 RDWSD-45.0 Plt ___
___ 11:45AM BLOOD WBC-6.1 RBC-2.60* Hgb-7.7* Hct-23.9* 
MCV-92 MCH-29.6 MCHC-32.2 RDW-13.4 RDWSD-44.2 Plt ___
___ 04:10PM BLOOD WBC-6.6 RBC-2.75*# Hgb-8.2*# Hct-25.5*# 
MCV-93 MCH-29.8 MCHC-32.2 RDW-13.2 RDWSD-44.8 Plt ___
___ 05:10PM BLOOD Neuts-64.0 ___ Monos-12.4 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-4.15 AbsLymp-1.33 AbsMono-0.80 
AbsEos-0.14 AbsBaso-0.02
___ 11:45AM BLOOD Neuts-70.5 Lymphs-16.7* Monos-10.3 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-4.30 AbsLymp-1.02* 
AbsMono-0.63 AbsEos-0.09 AbsBaso-0.02
___ 05:10PM BLOOD ___ PTT-35.0 ___
___ 11:45AM BLOOD ___ PTT-37.2* ___
___ 11:45AM BLOOD Glucose-87 UreaN-9 Creat-0.6 Na-139 K-3.6 
Cl-105 HCO3-24 AnGap-14
___ 04:10PM BLOOD UreaN-12 Creat-0.6 Na-134 K-3.7 Cl-100 
HCO3-26 AnGap-12
___ 11:45AM BLOOD ALT-26 AlkPhos-59 TotBili-0.6
___ 04:10PM BLOOD ALT-27 AST-25 AlkPhos-60 TotBili-0.3
___ 11:45AM BLOOD Lipase-45
___ 11:45AM BLOOD Albumin-4.2
___ 11:45AM BLOOD HCG-<5
___ 11:55AM BLOOD Lactate-1.7
___ 11:45AM URINE Color-Straw Appear-Clear Sp ___
___ 11:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:45AM URINE UCG-NEGATIVE
  URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

=======================================
Imaging
=======================================
Pelvic ultrasound ___
FINDINGS: 
 
The uterus measures 7.8 x 3.4 x 5.6 cm. The endometrium is 
homogenous and
measures 6 mm.
 
New from the prior pelvic ultrasound, there is a heterogeneous 
left-sided
large lesion in the region of the left adnexa with cystic 
components,
including some fluid-fluid levels.  There is internal 
vascularity with
arterial and venous waveforms within this lesion, suggestive of 
ovarian
tissue.  The lesion measures 8.18 x 9.13 x 7.6 cm.  There is 
associated
moderate amount of complex fluid in the pelvis compatible with 
hemo
peritoneum.  A normal left ovary is not visualized.
 
The right ovary measures 2.5 x 3.8 x 2.2 cm and is unremarkable.
 
IMPRESSION: 
 
Interval development of a large heterogeneous left adnexal 
lesion measuring up
to 9.1 cm containing cystic components, including some 
fluid-fluid levels. 
Some internal vascularity is noted within this lesion with 
waveforms
suggestive of ovarian tissue.  There is associated moderate 
hemoperitoneum. 
Constellation of findings suggests a ruptured hemorrhagic left 
ovarian cyst
with hemoperitoneum or a left adnexal hematoma that involves the 
left ovary.

 
Brief Hospital Course:
On ___, Ms. ___ was admitted for observation given 
concern for ruptured ovarian cyst and anemia. 

Prior to admission, her hematocrit was noted to be 25.5 
(___) from a baseline of 38 (___). While in the emergency 
department, her hematocrit was repeated and found to be 23.9.  
Pelvic ultrasound showed heterogenous left adnexal mass with 
solid and cystic components, vascularity with arterial and 
venous waveforms along with associated complex fluid in the 
pelvis consistent with a ruptured hemorrhagic ovarian cyst. She 
received 2 units packed red blood cells and was admitted for 
further observation.

On arrival, patient noted improved abdominal pain. A 
post-transfusion hematocrit was 32.7.  Given her stable 
hematocrit from ___ to ___, her appropriate increase in 
hematocrit with transfusion, and her improved symptoms after 
transfusion, it was felt that there was low risk of continued 
bleeding. Given her history of ruptured hemorrhagic cyst, risks 
and benefits of restarting norethindrone was discussed and pt 
agreed with restarting norethindrone 5mg daily to suppress 
ovulation.  

For her history of prosthetic heart valve, hematology-oncology 
and cardiology were consulted. Patient was supratherapeutic on 
arrival with last INR noted to be 7 in the outpatient setting on 
___. In the ED, her INR was noted to be 2.6 and 1.9. Per 
hematology oncology, goal INR should be ___. Given low concern 
for continued bleeding from the ruptured cyst, cardiology 
recommended bridging with lovenox 60mg and coumadin 12.5 mg 
prior to discharge. Patient was instructed to continue lovenox 
60 units BID until INR is 2.5; coumadin 15mg ___ and 
alternating 12.5 mg and 15mg daily. Her INR should be checked on 
a daily basis and patient will follow-up with the 
___ clinic. 

She was discharged home in stable condition with outpatient 
follow-up scheduled. 
 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
AMOXICILLIN - amoxicillin 500 mg tablet. 4 tablet(s) by mouth
once as needed for 1 hour prior to dental work -  (Prescribed by
Other Provider)
AZELASTINE - azelastine 0.15 % (205.5 mcg) nasal spray. 2 puffs
each nostril twice a day
CLOBETASOL - clobetasol 0.05 % topical ointment.   -  
(Prescribed
by Other Provider)
ENOXAPARIN - enoxaparin 60 mg/0.6 mL subcutaneous syringe. 1 sz
sc twice a day
LEVOTHYROXINE - levothyroxine 75 mcg tablet. 1 tablet(s) by 
mouth
daily
PAROXETINE HCL - paroxetine 10 mg tablet. 1 tablet(s) by mouth
daily
POLYETHYLENE GLYCOL 3350 - polyethylene glycol 3350 17 gram/dose
oral powder. 1 powder(s) by mouth daily -  (Prescribed by Other
Provider) (Not Taking as Prescribed)Entered by MA/Other Staff
TAMSULOSIN - tamsulosin 0.4 mg capsule. 1 capsule(s) by mouth
once daily
TRETINOIN [RETIN-A] - Retin-A 0.1 % topical cream.   - 
(Prescribed by Other Provider)
WARFARIN - warfarin 10 mg tablet. 1 tablet(s) by mouth once a 
day
12.5 mg daily
WARFARIN - warfarin 7.5 mg tablet. Take one tablet(s) by mouth
daily or as directed by the ___ clinic
WARFARIN [COUMADIN] - Coumadin 2.5 mg tablet. 1 tablet(s) by
mouth once a day 12.5 mg daily
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. 1 tablet(s) by
mouth daily -  (Prescribed by Other Provider)
CALCIUM CITRATE - Dosage uncertain -  (Prescribed by Other
Provider)
CETIRIZINE [ZYRTEC] - Dosage uncertain -  (Prescribed by Other
Provider)
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Dosage uncertain - 
(Prescribed by Other Provider)
FERROUS SULFATE [SLOW RELEASE IRON] - Slow Release Iron 142 mg
(45 mg iron) tablet,extended release. tablet(s) by mouth  - 
(Prescribed by Other Provider)
FLUTICASONE [FLONASE ALLERGY RELIEF] - Flonase Allergy Relief 50
mcg/actuation nasal spray,suspension. 2 spray intranasally twice
a day
MULTIVITAMIN - Dosage uncertain -  (Prescribed by Other 
Provider)
(Not Taking as Prescribed)Entered by MA/Other Staff
 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC BID 
Start: ___, First Dose: STAT  
2.  norethindrone (contraceptive) 5.0 mg oral DAILY  
3.  norethindrone acetate 5 mg oral DAILY 
RX *norethindrone acetate 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*6 
4.  Aspirin 81 mg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Levothyroxine Sodium 75 mcg PO DAILY  
7.  PARoxetine 10 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Warfarin 12.5 mg PO ONCE Duration: 1 Dose  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ruptured ovarian cyst
anemia, s/p blood transfusion
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for observation of a ruptured 
ovarian cyst in the setting of receiving anticoagulation for a 
heart valve.  The team feels you are stable for discharge home.  
After consulting with heme/onc and cardiology, we developed the 
plan below:

- Prior to discharge tonight, you have received lovenox 60 units 
and Coumadin 12.5mg
- Continue taking lovenox 60 units twice daily until your INR is 
2.5
- Take Coumadin 15mg tomorrow and resume alternating between 
12.5mg and 15mg daily
- Check your INR on a daily basis
- Follow up with the ___ clinic
- Please begin taking the new norethindrone dose 5mg daily 
starting tomorrow morning
 
Followup Instructions:
___